US07268150B2
A suspension of 1.0 g of tert-butyl piperidin-4-ylcarbamate hydrochloride and 0.6 ml of triethylamine in 15 ml of methylene chloride was added to a solution of 418 mg of triphosgene in 10 ml of methylene chloride under cooling with ice-water bath. The reaction mixture was stirred for 2 hours with ice cooling, and then a solution of 358 mg of piperidine and 0.6 ml of triethylamine in 5 ml of methylene chloride was added thereto and stirred at room temperature for 15 hours. Aqueous 10% citric acid solution was added to the reaction mixture, and this was extracted with EtOAc. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The resulting solid was washed with ether to obtain 440 mg of tert-butyl [1-(piperidine-1-carbonyl)piperidin-4-yl]carbamate.

reactant | tert-butyl piperidin-4-ylcarbamate hydrochloride | 1.0 g | Cl.N1CCC(CC1)NC(OC(C)(C)C)=O
reactant | triphosgene | 418 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | piperidine | 358 mg | N1CCCCC1 | C5H11N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
product | tert-butyl [1-(piperidine-1-carbonyl)piperidin-4-yl]carbamate | 440 mg | N1(CCCCC1)C(=O)N1CCC(CC1)NC(OC(C)(C)C)=O | C16H29N3O3
